### PR TITLE
fix: `match` discriminant reduction should not unfold irreducible defs

### LINKED ISSUE #2161: `decide` looks inside definitions marked `@[irreducible]`
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The tactic `decide` seems to be looking inside definitions marked `@[irreducible]`.  False statements involving `@[irreducible]` definitions fail slowly (presumably because `decide` is unfolding the definitions), and true statements involving `@[irreducible]` definitions can be proved.

### Steps to Reproduce

```lean
structure Foo where num : Nat deriving DecidableEq

namespace Foo

instance : OfNat Foo n := ⟨⟨n⟩⟩

/-! # Example 1 -/

@[irreducible] def mul (a b : Foo) : Foo :=
  let d := Nat.gcd a.num 1
  ⟨(a.num.div d) * (b.num.div d)⟩

example : ((Foo.mul 4 1).mul 1).mul 1 = 4 := by decide

/-! # Example 2 -/

@[irreducible] def add (a b : Foo) : Foo := ⟨a.num * b.num⟩

example : ((Foo.add 4 1).add 1).add 1 = 4 := by decide
```

**Expected behavior:** Expect both examples to fail quickly.

**Actual behavior:** Example 1 fails slowly (16s for me), and Example 2 succeeds.

**Reproduces how often:** 100%

### Versions

nightly-2023-03-15

### Additional Information

@digama0 and I encountered this while investigating the following slow example in Std:

```lean
import Std.Data.Rat.Basic

example : (4:Rat) * 1 * 1 + 4 = 0 := by decide -- fails, takes 3.17s
```

### PR DESCRIPTION
**Pull request by Kha**
This seems like a simple oversight to me: none of the functions special-cased in `canUnfoldAtMatcher` are irreducible (and it would be quite weird if they were). Likewise, Mixing `[match_pattern]` and `[irreducible]` seems inadvisable.

Fixes #2161

### CODE REVIEW

**Comment by Kha** [comment]
Perhaps a cleaner approach would be to first call `canUnfoldDefault` and on failure apply the special casing

File: tests/lean/2161.lean [hunk 1]
```diff
@@ -0,0 +1,19 @@
...
+
+instance : OfNat Foo n := ⟨⟨n⟩⟩
+
+/-! # Example 1 -/
+
+@[irreducible] def mul (a b : Foo) : Foo :=
+  let d := Nat.gcd a.num 1
+  ⟨(a.num.div d) * (b.num.div d)⟩
+
+example : ((Foo.mul 4 1).mul 1).mul 1 = 4 := by decide
```
Comment (hrmacbeth) [inline tests/lean/2161.lean:13]: This fails both before and after this PR, but it goes from failing slowly to failing quickly.  Is there a way to put a heartbeat limit on the test?

Comment (Kha) [reply tests/lean/2161.lean:14]: That's a good idea, thanks

Comment (hrmacbeth) [reply tests/lean/2161.lean:14]: I think you put the heartbeat limit on the wrong test!

Comment (Kha) [reply tests/lean/2161.lean:15]: Yikes, thanks again. Now it's on both.

**Review by gebner — APPROVED** [review]
